US07074817B2
Ethyl 2-[1-benzyl-6-(3-chlorophenyl)-1H-indol-3-yl]-2-oxoacetate
Ethyl [1-benzyl-6-(3-chlorophenyl)-1H-indol-3-yl](oxo)acetate was prepared from 1-benzyl-6-(3-chlorophenyl)-1H-indole (0.591 g, 1.86 mmol), oxalyl chloride (0.49 mL, 5.6 mmol), and ethanol (2 mL) following the procedure described in Step 3 of Example 1. Purification by flash chromatography using 5-100% ethyl acetate in hexane as an eluant yielded the title compound as a hard reddish gum (0.520 g, 67%). Mass spectrum (+ESI, [M+H]+) m/z 418; 1HNMR (500 MHz, DMSO-d6): δ 8.7 (s, 1H), 8.25 (d, 1H, J=8.2 Hz), 8.0 (s, 1H), 7.8 (s, 1H), 7.65-7.0 (m, 2H), 7.5 (t, 1H, J=7.9 Hz), 7.4 (d, 1H, J=0.92 Hz), 7.35-7.4 (m, 4H), 7.25-7.3 (m, 1H), 5.7 (s, 2H), 4.35 (q, 2H, J=7.1 Hz), and 1.35 ppm (t, 3H, J=7.2 Hz).

reactant | 1-benzyl-6-(3-chlorophenyl)-1H-indole | 1.86 mmol, 0.591 g | C(C1=CC=CC=C1)N1C=CC2=CC=C(C=C12)C1=CC(=CC=C1)Cl | C21H16ClN
reactant | oxalyl chloride | 5.6 mmol, 0.49 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | Ethyl 2-[1-benzyl-6-(3-chlorophenyl)-1H-indol-3-yl]-2-oxoacetate | C(C1=CC=CC=C1)N1C=C(C2=CC=C(C=C12)C1=CC(=CC=C1)Cl)C(C(=O)OCC)=O | C25H20ClNO3
